US07737149B2
4-(3,4,6,7,8,8a-hexahydro-1H-pyrrolo [2,1-c]pyrazin-2-yl)-N-[5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-yl]benzamide
4-(3,4,6,7,8,8a-hexahydro-1H-pyrrolo[2,1-c]pyrazin-2-yl)-N-[5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-yl]benzamide was prepared following the procedure as for Example 159, but starting from methyl 4-(3,4,6,7,8,8a-hexahydro-1H-pyrrolo[2,1-c]pyrazin-2-yl)benzoate (0.25 g, 0.96 mmol), 5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-amine (0.239 g, 0.96 mmol) and 2M trimethylaluminium in toluene (1.2 ml, 2.4 mmol). The crude product was purified by preparative HPLC, using decreasingly polar mixtures of water (containing 1% NH3) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to afford the title compound (0.124 g, 27%) as a white solid.

reactant | methyl 4-(3,4,6,7,8,8a-hexahydro-1H-pyrrolo[2,1-c]pyrazin-2-yl)benzoate | 0.96 mmol, 0.25 g | C1N(CCN2C1CCC2)C2=CC=C(C(=O)OC)C=C2 | C15H20N2O2
reactant | 5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-amine | 0.96 mmol, 0.239 g | COC=1C=C(C=C(C1)OC)COC=1C=C(NN1)N | C12H15N3O3
reactant | trimethylaluminium | 2M | C[Al](C)C
reactant | toluene | 2.4 mmol, 1.2 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(3,4,6,7,8,8a-hexahydro-1H-pyrrolo [2,1-c]pyrazin-2-yl)-N-[5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-yl]benzamide | 0.124 g, 27% | C1N(CCN2C1CCC2)C2=CC=C(C(=O)NC=1NN=C(C1)OCC1=CC(=CC(=C1)OC)OC)C=C2 | C26H31N5O4
